US05451688
A-(3) (4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-6,8-dihydroxy-2-methyl-1-naphthyl]ethyl}-tetrahydro-4-hydroxy-2H-pyran-2-one
The whole of the crude (3R,5R)-3,5-dihydroxy-7-[(1S,2S,6S,8S,8aR)-6,8-dihydroxy-2-methyl-1,2,6,7,8,8a-hexahydro-1-naphthyl]heptanoic acid, prepared as described in Step 2, above, was mixed with 1000 ml of tetrahydrofuran. 38 ml (0.27 mol) of triethylamine were then added to the mixture, followed by 38 ml (0.25 mol) of diethyl cyanophosphonate, whilst ice-cooling and stirring. The resulting mixture was then stirred at room temperature for 1.5 hours. At the end of this time, the tetrahydrofuran was removed from the reaction mixture by distillation under reduced pressure and the residue was triturated with a mixture of diethyl ether and ethanol to stimulate crystallization. The resulting crystals were collected by filtration to provide 47.7 g of the title compound. This was then recrystallized from a mixture of ethyl acetate and ethanol to produce colorless plates melting at between 161° and 163° C.

reactant | (3R,5R)-3,5-dihydroxy-7-[(1S,2S,6S,8S,8aR)-6,8-dihydroxy-2-methyl-1,2,6,7,8,8a-hexahydro-1-naphthyl]heptanoic acid | O[C@@H](CC(=O)O)C[C@@H](CC[C@H]1[C@H](C=CC2=C[C@H](C[C@@H]([C@H]12)O)O)C)O | C18H28O6
reactant | triethylamine | 0.27 mol, 38 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 0.25 mol, 38 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | (4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-6,8-dihydroxy-2-methyl-1-naphthyl]ethyl}-tetrahydro-4-hydroxy-2H-pyran-2-one | 47.7 g | O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)O)CC[C@@H]1C[C@H](CC(O1)=O)O)C | C18H26O5
